US05250522
Similarly to a method reported in Tetrahedron Lett., 1991, 923, to a stirred solution of (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propionic acid (3 g, 8.8 mmol) in dimethoxyethane (DME; 8 mL) at -15° is added N-methyl morpholine (0.975 mL, 8.8 mmol), followed by isobutyl chloroformate (1.2 mL, 9.25 mmol). After 5 minutes, the precipitate is removed by filtration and washed with DME (5 mL). The filtrate is cooled to 0° and treated at once with a freshly prepared clear solution of sodium borohydride (500 mg) in water (5 mL). After the strong evolution of gas has ceased, water (100 mL) is added and the product is extracted in ethyl acetate. The organic layer is separated, dried over magnesium sulfate, decolorized with activated charcoal, filtered and concentrated in vacuo to yield (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propan-1-ol as a white solid, m.p.: 116°, [α]D =-22.90 (c 0.74, MeOH).

reactant | (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propionic acid | 8.8 mmol, 3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H23NO4
reactant | N-methyl morpholine | 8.8 mmol, 0.975 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 9.25 mmol, 1.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dimethoxyethane | 8 mL | C(OC)COC | C4H10O2
product | (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propan-1-ol | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H25NO3
